Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Evatuation for Normal Preassure Hydrocephalus
 
Major Surgical or Invasive Procedure:
Large Volume Lumbar Puncture 

 
History of Present Illness:
___ year old woman with history of hyperlipidemia,
hypothyroidism who presents for NPH evaluation in the setting of
memory loss, gait instability, and ventriculomegaly.

She reports that she has had an unsteady gait and memory 
problems
for the past year.

Regarding her walking, she reports for the past ___ months she
has felt "wobbly."  She feels off balance, and feels that she 
has
to hold on to things to steady herself.  She is careful with her
walking, and avoids walking in slippers or barefoot.  She does
not feel dizzy and has not noticed any room spinning or 
sensation
of vertigo.  She has not had any falls.  She does not need to 
use
a cane or walker.

She's had trouble with urinary urgency and frequency for ___
years.  She has to go to the bathroom every ___ hours, and is
always conscious when she goes somewhere to look for the
bathroom.  Once she feels to urinate she can't hold it for very
long.  She gets up ___ times a night to urinate.  She's worn a
liner for many years, but hasn't needed depends.  She has not 
had
any accidents or urinary incontinence, and does not have any
hesitancy or retention.  She has no problems with bowel
movements, and has one bowel movement a day.

She and her family feel that she's had problems with her memory
for ___ years.  They notice that if they talk to her on the 
phone
that she won't remember the details from the conversation later. 

She tends to repeat herself in conversation.  She worries about
getting lost in the mall or forgetting where her car is, so she
only goes places when she is accompanied by a family member.  
She
does still drive herself locally and has not gotten lost while
driving.  She lives alone and has not had trouble doing her own
bills, shopping, and cooking.  She doesn't think she forgets
where she puts things.  She doesn't have trouble remembering
names of friends or acquaintances, and has not forgotten
appointments (though she does write them down to remind herself) 

Neither she nor her daughters have noticed any personality
changes, mood changes, behavior changes, apathy, or
disinhibition.

She had an MRI done on ___.  This showed ventricles that were
disproportionately large compared to the sulci, concerning for
NPH.  There were periventricular chronic ischemic changes and
vermian atrophy, and prominence of the ___ ventricle.  There was
no evidence of acute infarct.  She brought a disc with this scan
which we reviewed.  The ventricles are indeed large, and seem 
out
of proportion to the degree of atrophy.  There is some capping 
of
the ventricles which might be suggestive of some transependymal
flow.

On Neurologic ROS she denies any headaches, neck pain, back 
pain,
vision changes or vision loss, diplopia, weakness or numbness in
her arms or legs, clumsiness in her hands, dizziness or vertigo,
or bowel or bladder incontinence.

 
Past Medical History:
Osteoporosis
Hypothyroidism
Hyperlipidemia

 
Social History:
___
Family History:
Mother -> NPH requiring shunt, CHF, several strokes
Father -> DM, PVD requiring amputation
Sister -> cancer on her tongue
2 Brothers are healthy (60, ___), one has hyperlipidemia

 
Physical Exam:
Exam:
BP 140/70 HR 73 RR 18 100% RA
Gen: well-groomed, pleasant, talking easily with daughters
___: NC/AT, moist oral mucosa
Neck: No tenderness to palpation, normal ROM, supple, no carotid
bruits
Back: No point tenderness or erythema
CV: RRR, Nl S1 and S2, no murmurs/gallops/rubs
Lung: Clear to auscultation bilaterally
aBd: +BS soft, nontender
ext: no edema

Neurologic examination:
Mental status: Awake and alert, cooperative with exam, normal
affect.  Normal facial expression, smiles easily.  Oriented to
person, place, and date.  Attentive, says ___ backwards (___ ->
___ quickly, then pauses, but redirects herself and gets to 
___ after a few more seconds).   Good knowledge of current
events.  Speech is fluent
with normal comprehension and repetition; naming intact. No
dysarthria.  Reading and writing intact . 
Registers ___, recalls ___ in 5 minutes and with cues ___.  No
right/left confusion. No evidence of apraxia or neglect. ___ F
words in one minute.  With
clock drawing shows some mildly poor planning, doesn't space
numbers correctly. Her drawing of a cube a very poor. 

Cranial Nerves:
Pupils equally round and reactive to light, 4 to 2 mm
bilaterally. Visual fields are full to confrontation. 
Extraocular
movements intact bilaterally, no nystagmus. Sensation intact V1-
V3.  Facial movement symmetric.  Hearing intact to finger rub
bilaterally.  Palate elevation symmetrical.  Sternocleidomastoid
and trapezius normal bilaterally. Tongue midline, movements
intact

Motor:
Normal bulk bilaterally.  No pronator drift.  No tremor,
asterixis, or abnormal movements.  No cogwheeling or rigidity in
either arm.  Normal tone in both arms and legs.   Finger 
tapping,
and hand opening/closing quick in both hands.  Toe tapping is
brisk in both feet. Mild deltoid weakness ___ (4/%); full strengh
in other muscle groups.

Sensation: Intact to light touch throughout.  Diminished
sensation to pinprick in gradient to mid-foot.  Some mistakes
with JPS testing in great toes, vibration intact.

Reflexes: Brisk in biceps, triceps, and patella, 1+ in achilles, 

Toes mute bilaterally

Coordination: finger-nose-finger normal, heel to shin normal,
RAMs normal.

Gait: Wide based, but steady.  Normal stride length, normal gait
initiation.  Gait is not magnetic or shuffling.  Does retropulse
with pull.

 
Pertinent Results:
___ 07:40PM   GLUCOSE-132* UREA N-15 CREAT-0.8 SODIUM-142 
POTASSIUM-4.0 CHLORIDE-105 TOTAL CO2-27 ANION GAP-14
___ 07:40PM   estGFR-Using this
___ 07:40PM   ALT(SGPT)-20 AST(SGOT)-22 LD(LDH)-184 ALK 
PHOS-33* TOT BILI-0.2
___ 07:40PM   ALBUMIN-4.4
___ 07:40PM   WBC-9.7 RBC-3.79* HGB-11.7* HCT-34.4* MCV-91 
MCH-30.8 MCHC-34.0 RDW-14.5
___ 07:40PM   PLT COUNT-314
___ 07:40PM   ___ PTT-25.0 ___
___ 05:24PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 05:24PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 03:53PM CEREBROSPINAL FLUID (CSF)  PROTEIN-24 
GLUCOSE-71
___ 03:53PM CEREBROSPINAL FLUID (CSF)  WBC-0 RBC-0 POLYS-0 
___ MONOS-29
 
Brief Hospital Course:
Mrs. ___ is a ___ year old right handed woman with a
history hyperlipidemia and hypothyroidism who was admitted for 
evaluation of NPH.
She has had unsteady gait, urinary urgency, and
memory problems for the past year, as well as a finding of
ventriculomegaly on MRI concerning for NPH.
She underwent a large volume lumbar puncture (35ml) on ___. 
Patient had very significant improvement in her gait (eg she was 
able to tandem after the test which she could not do before) but 
not on memory tests after the procedure. Her family and she 
would like to pursue evaluation for VP shunt placement. She will 
continue to follow-up with her neurologist Dr. ___ she 
___ be evaluated at the ___ clinic with Dr. ___.
 
Medications on Admission:
Synthroid 0.05 mg QD
Lovastatin 10 mg QD
Calcium + Vit D 600 mg QD
MVI
Aspirin 81 mg QD
Advil PRN pain

 
Discharge Medications:
1. Levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
4. Calcium Acetate 667 mg Capsule Sig: Two (2) Capsule PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Normal Preassure Hydrocephalus

 
Discharge Condition:
Improved gait after lumbar puncture

 
Discharge Instructions:
You were admitted for evaluation of normal-preassure 
hydrocephalus after one year of gait problems and memory 
problems.
You had improvement after removal of a significant amount of 
cerebral spinal fluid.
You should follow-up with a neurosurgeon and with Dr. ___ as 
an outpatient.
 
Followup Instructions:
___